US07326791B2
rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 6b from N-[1-(6-chloro-1H-benzimidazol-2-yl)-2-(4-hydroxyphenyl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, methyl bromoacetate, and potassium carbonate in dimethylformamide. Yield: 30%; Rf value: 0.33 (silica gel; dichloromethane/ethanol=19:1); C31H31ClN4O5 (575.06); mass spectrum: (M+H)+=575/577 (chlorine isotope) and (M−H)−=573/575 (chlorine isotope).

reactant | N-[1-(6-chloro-1H-benzimidazol-2-yl)-2-(4-hydroxyphenyl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC=1C=CC2=C(NC(=N2)C(CC2=CC=C(C=C2)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C1 | C28H27ClN4O3
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 30% | ClC=1C=CC2=C(N(C(=N2)C(CC2=CC=C(C=C2)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)CC(=O)OC)C1 | C31H31ClN4O5
